US07368454B2
a) (3-Trifluoromethyl-phenyl)-dithiocarbamic acid methyl ester
Under an atmosphere of nitrogen, carbon disulfide (0.73 ml, 12 mmol) was added to a solution of 3-aminobenzotrifluoride (1.50 g, 9.3 mmol) in DMSO (10 ml). Subsequently, sodium hydroxide (0.56 ml, solution in water, 20 mol/l, 11 mmol) was added, and the dark brown reaction mixture was stirred for 30 min (r.t.). Upon the addition of methyl iodide (730 ml, 12 mmol), the mixture turned yellow and was stirred overnight (r.t.). The reaction mixture was poured into water and extracted with ethyl acetate. The extract was dried (Na2SO4), and the solvent evaporated under reduced pressure. The title compound (1.65 g, 71%) was obtained by purification of the residue (silica gel, heptan/ethyl acetate=100:0-80:20).

reactant | carbon disulfide | 12 mmol, 0.73 ml | C(=S)=S | CS2
reactant | 3-aminobenzotrifluoride | 9.3 mmol, 1.50 g | NC=1C=C(C=CC1)C(F)(F)F | C7H6F3N
reactant | sodium hydroxide | 11 mmol, 20 mol/l, 0.56 ml | [OH-].[Na+]
reactant | methyl iodide | 12 mmol, 730 ml | CI | CH3I
solvent | DMSO | 10 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | (3-Trifluoromethyl-phenyl)-dithiocarbamic acid methyl ester | 1.65 g, 71% | CSC(NC1=CC(=CC=C1)C(F)(F)F)=S | C9H8F3NS2
